US07504425B2
Methyl glycolate (10.4 g, 114 mmol), crotyl alcohol (100 ml, excess), was refluxed in the presence of K2CO3 (0.8 g) for 1 hr, during which time about 10 ml of the condensate was removed through a Dean-Stock trap. After diluting with hexane (100 ml), the solid was filtered through a short silica gel column (50 g), washed with 1:5 ethylacetate:hexane (250 ml). The combined filtrate and washings was concentrated to 100 ml, and was diluted again with hexane (100 ml), passed through silica gel column and washed. The solution was concentrated to ˜12.5 g of oil, which was vacuum distilled to give crotyl glycolate: 9.3 g (97° C./20 mmHg) as a mixture of cis:trans (1:10). NMR (500 MHz, CDCl3) δ: 1.3 (m, 3H), 4.15 (s, 2H), 4.62 (d, 2H), 5.6 (m, 1H), 5.84 (m, 1H). cis isomer: 1.71 (m, 3H), the rest peaks overlaps with trans isomer.

reactant | Methyl glycolate | 114 mmol, 10.4 g | C(CO)(=O)OC | C3H6O3
reactant | K2CO3 | 0.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | crotyl alcohol | 100 ml | C(C=CC)O | C4H8O
product | crotyl glycolate | C(CO)(=O)OCC=CC | C6H10O3
